US09169254B2
A solution of 3-cyano-3-diallylamino-azetidine 1-carboxylic acid tert-butyl ester (143.5 mg, 0.5174 mmol), 1,3-dimethylbarbituric acid (242.5 mg, 1.553 mmol) and tetrakis(triphenylphosphine)palladium(0) (30.3 mg, 0.0262 mmol) in dichloromethane (1.3 ml) was stirred at 40° C. for five hours. A saturated aqueous sodium bicarbonate solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was then dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 3-amino-3-cyano-azetidine-1-carboxylic acid tert-butyl ester (98 mg, 96%).

reactant | 3-cyano-3-diallylamino-azetidine 1-carboxylic acid tert-butyl ester | 0.5174 mmol, 143.5 mg | C(C)(C)(C)OC(=O)N1CC(C1)(N(CC=C)CC=C)C#N | C15H23N3O2
reactant | 1,3-dimethylbarbituric acid | 1.553 mmol, 242.5 mg | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1.3 ml | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0262 mmol, 30.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-amino-3-cyano-azetidine-1-carboxylic acid tert-butyl ester | 98 mg, 96% | C(C)(C)(C)OC(=O)N1CC(C1)(C#N)N | C9H15N3O2
